Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Back Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ y/o F with pMHx significant for HTN, GERD, 
CAD s/p CABG and stenting, IDDM with periperal neuropathy who 
presents with R flank pain.  
Per patient, this pain has been going on for the past 3 weeks 
but has worsened over the past 2 days. It is worsened with 
coughing and moving. She otherwise denies any dysuria, urinary 
frequency, abdominal pain, n/v, chest pain, shortness of breath 
or dizziness. She endorses 4 episodes of diarrhea today.  
In the ED initial vitals were: 10 98.2 106 167/84 16 99% RA. RR 
later trended up to 20, HR down to 89. Labs were significant for 
positive UA (WBC 19), lactate 3.0, WBC 9.4% (70% PMN), AST 53, 
ALT 16, Lip 70, trop-T < 0.01, Chem hemolyzed but Cr 1.4 
(baseline 1.0 in ___, repeat K 3.6. Hyperglycemic to 446, 340 
on repeat. CXR showed no acute process. Patient was given 1L NS, 
1g CTX, 14 units insulin. Unclear if she received her home 
long-acting insulin. UCx and BCx's were sent after antibiotics 
initiated. Vitals prior to transfer were: 3 98.4 89 152/80 20 
100% RA.  

 
Past Medical History:
COPD  
CAD s/p CABG and stenting  
Depression  
DM  
GERD  
HTN  
Migraines  
Chronic shoulder pain on narcotics  
OSA  
Peripheral neuropathy  
Restless leg  

 
Social History:
___
Family History:
Mother Unknown ALCOHOL ABUSE pt was ward of state, doesn't know 
full details of family hx  
Father ___ ___ HODGKIN'S DISEASE per old records  

 
Physical Exam:
Admission Physical Exam:
Vitals - 98.3 155/88 92 20 99% on RA  
GENERAL: NAD  
HEENT: NCAT  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
BACK: no tenderness to spinal processes, no pain the left side, 
+CVA tenderness, tenderness to palpation of the R sided 
paraspinal muscles along entire length of spinal cord  

Discharge Physical Exam:
Vitals: 97.8 107/59 78 18 97/RA
General: awake, alert, NAD
HEENT: NCAT EOMI MMM grossly normal oropharynx
CV: RRR nl S1+S2 no g/r/m no JVD/HJR. 
Lungs: CTAB no w/r/r, good movement in all fields
Abdomen: obese, soft nt/nd normoactive BS
Back: ttp along right paraspinal region from sacrum to shoulder. 
+ CVA tenderness.
Ext: dry and WWP. no c/c/e
Neuro: AAOx3, moving all extrem with purpose, facial movements 
symmetric, no focal deficits.
Skin: no rashes, lesions, excoriations

 
Pertinent Results:
CT ABD/PELVIS ___:
Noncontrast imaging of the abdomen and pelvis demonstrates a 
punctate 
nonobstructing calculus in the right collecting system (02:31). 
There is no left renal calculus. There is no evidence of 
ureteral or urinary bladder calculus. There is symmetric renal 
enhancement and excretion of intravenous contrast. Subcentimeter 
cortically based hypodensity in the left interpolar region 
(06:30) is too small to accurately characterize but likely 
represents renal cyst. There is no evidence of collecting system 
filling defect. There are segments of the mid to distal ureters 
are not well opacified, possibly secondary to peristalsis, 
however there is no evidence of inflammatory change or mass 
about the ureters. The adrenal glands are unremarkable. 
  
Low hepatic attenuation on noncontrast imaging is consistent 
with hepatic 
steatosis. There is no evidence of focal hepatic mass. There is 
no 
intrahepatic or extrahepatic biliary ductal dilatation. There 
are numerous gallstones within the gallbladder without evidence 
of acute cholecystitis. 
  
The spleen is not enlarged. There is no pancreatic ductal 
dilatation or 
evidence of pancreatic mass. 
  
There are no dilated loops of bowel. There is no evidence of 
bowel wall 
thickening. There is no intraperitoneal free air or free fluid. 
  
There are no enlarged inguinal, iliac chain, retrocrural, or 
retroperitoneal lymph nodes. Abdominal aorta has a normal course 
and caliber with moderate atherosclerotic calcification. There 
is atherosclerotic calcification of the superior mesenteric 
artery origin. There is no suspicious osseous lesion. 
  
IMPRESSION: 
1. Tiny nonobstructing right collecting system calculus. 
2. Hepatic steatosis. 
3. 3 nodular pulmonary densities in the left basilar region 
measuring up to 8 x 8 mm. These findings may may represent areas 
of rounded atelectasis, however short-term followup with 
nonemergent CT chest is recommended. 

ADMISSION LABS:
___ 08:30PM BLOOD WBC-9.4 RBC-3.95* Hgb-13.3 Hct-37.4 
MCV-95 MCH-33.7* MCHC-35.5* RDW-13.5 Plt ___
___ 08:30PM BLOOD Neuts-70.1* ___ Monos-5.2 Eos-1.6 
Baso-0.7
___ 08:30PM BLOOD Glucose-446* UreaN-18 Creat-1.4* Na-133 
K-5.6* Cl-97 HCO3-21* AnGap-21*
___ 08:30PM BLOOD ALT-16 AST-54* AlkPhos-65 TotBili-0.4
___ 08:30PM BLOOD Albumin-4.1 Calcium-9.1 Phos-3.9 Mg-1.8
___ 08:30PM BLOOD cTropnT-<0.01
___ 08:30PM BLOOD Lipase-70*
___ 10:53PM BLOOD ___ pO2-38* pCO2-45 pH-7.37 
calTCO2-27 Base XS-0
___ 10:53PM BLOOD Lactate-3.0* K-3.6
___ 10:53PM BLOOD O2 Sat-69
___ 10:40PM URINE Blood-NEG Nitrite-POS Protein-NEG 
Glucose-1000 Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 10:40PM URINE RBC-3* WBC-19* Bacteri-FEW Yeast-NONE 
Epi-1 TransE-<1
___ 10:40PM URINE Color-Straw Appear-Clear Sp ___

DISHCARGE LABS:
___ 07:00AM BLOOD WBC-7.0 RBC-3.37* Hgb-11.2* Hct-31.8* 
MCV-94 MCH-33.2* MCHC-35.2* RDW-12.9 Plt ___
___ 06:23AM BLOOD Neuts-53.5 ___ Monos-5.0 Eos-1.8 
Baso-0.6
___ 07:00AM BLOOD Glucose-254* UreaN-13 Creat-1.0 Na-136 
K-3.9 Cl-101 HCO3-24 AnGap-15
___ 07:00AM BLOOD ALT-14 AST-17 AlkPhos-50
___ 07:00AM BLOOD Calcium-8.5 Phos-3.5 Mg-1.5*

 
Brief Hospital Course:
___ PMH with HTN, GERD, CAD s/p CABG and stenting, IDDM with R 
flank pain presumed to musculoskeletal in nature due to negative 
workup. Incidental UTI / asymptomatic bacturia.

ACUTE ISSUES: 
# UTI / Bacturia: Patient presented without any history of 
urinary or systemic symptoms, but was started on ceftriaxone in 
the ED after U/A with ___ positive and 19 WBCs. 
Antibiotics were taken prior to drawing urinary or blood 
cultures, and there was no yield. Patient switched to 
ciprofloxacin and received a three day total antibiotic course. 
CT scan performed did not have any evidence of pyelonephritis. 
Antibiotics were discontinued at time of discharge.

# Flank Pain: 
Patient reported 3 weeks of back/flank pain, constant and achy 
in nature and worsened by movement. Treated with 
anti-inflammatories with minimal effect. CT scan demonstrated no 
nephrolithiasis. CXR showed no bony abnormality, but could not 
totally exclude multiple rib fractures. Patient's pain was well 
controlled and tolerating PO medications, so she was discharged 
with PCP following for further workup.

# Diabetes / Hyperglycemia:
Patient had persistently 

# IDDM: Last A1C (___) 8.0. Serum glucose initially in the 400s 
and Chem-7 with gap; however, this was likely ___ lactate and 
unlikely to be DKA given normal pH on ABG. AM glucose 218.
- continue home dose lantus 90 units qPM  
- per ___ records, is on a very aggressive ISS, will decrease 
for now and uptitrate as necessary depending on ___  

# ___ on CKD: Cr elevated at 1.4 from baseline 1.0. Most likely 
pre-renal in the setting of infection. Now s/p 2L IVF in the ED 
and creatinine has corrected to 1.0. Appears euvolemic, maybe 
slightly up. 
- consider further workup if no improvement (urine lytes, 
spinning urine, renal u/s)  
- renally dose medications for now  

CHRONIC ISSUES:
# HF with pEF/CAD s/p CABG and stents: Was not an active issue 
whil inpatient. Fluid use was judicious. Metoprolo converted to 
short acting while in house, isosorbide, aspirin and 
atorvastatin were continued. Losartan held as below.  
# HTN: home metoprolol and isosorbide continued, losartan held 
while inpt as pressures were soft and within normal range. 
Discharged home off losartan.
# Restless leg syndrome: home ropinarole continued
# Shoulder pain: oxycodone and tylenol seperately dose while 
inpatient  
# COPD: home advair and PRN albuterol nebs were continued  
# GERD: home pantoprazole continued 
# Insomnia: home trazodone continued  

TRANSITIONAL ISSUES:
- Losartan held inpatient and at discharge andpatient blood 
pressures were low-normal. PCP to determine restart.
- Patient to follow up with PCP for resolution of UTI and back 
pain symptoms
- Patient should have insulin regiment adjustments for optimal 
glycemic control - no changes to regimen were made at discharge.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 25 mg PO DAILY 
2. Metoprolol Succinate XL 200 mg PO DAILY 
3. Atorvastatin 80 mg PO HS 
4. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN pain 
6. Ropinirole 0.5 mg PO QPM 
7. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Pantoprazole 40 mg PO Q12H 
10. Aspirin 325 mg PO DAILY 
11. albuterol sulfate 90 mcg/actuation inhalation q4hrs wheezing 

12. TraZODone 150 mg PO HS 
13. Vitamin D 1000 UNIT PO DAILY 
14. Levemir Flexpen (insulin detemir) 90 units subcutaneous in 
the evening 
15. HumaLOG KwikPen (insulin lispro) per sliding scale  
subcutaneous as directed 

 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
2. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN pain 
3. Metoprolol Succinate XL 200 mg PO DAILY 
4. Levemir Flexpen (insulin detemir) 90 units subcutaneous in 
the evening 
5. HumaLOG KwikPen (insulin lispro) 0   SUBCUTANEOUS AS DIRECTED 

6. albuterol sulfate 90 mcg/actuation inhalation q4hrs wheezing 
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*11 Tablet Refills:*0
8. Vitamin D 1000 UNIT PO DAILY 
9. TraZODone 150 mg PO HS 
10. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
11. Aspirin 325 mg PO DAILY 
12. Atorvastatin 80 mg PO HS 
13. Fluticasone Propionate 110mcg 2 PUFF IH BID 
14. Pantoprazole 40 mg PO Q12H 
15. Ropinirole 0.5 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
UTI

Secondary Diagnosis:
Back Pain
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were seen in the emergency department for back pain. ___ 
were admitted to the hospital where ___ were also diagnosed with 
a urinary tract infection. ___ were treated with antibiotics, IV 
fluids and pain medication. Due to the concern of your back 
pain, a CT scan was as performed and it was determined that ___ 
did not have a kidney stone or an infection. Your diabetes was 
controlled with an insulin scale while ___ were an inpatient. 
___ will be discharged home on antibiotics and intent to follow 
up with your primary care provider, Dr. ___. Please take all 
medications as prescribed and keep all scheduled appointments. 
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

It was a pleasure taking care of ___!
Your ___ Care Team
 
Followup Instructions:
___